US04192816
A mixture of 1.0 g (3.48 mmoles) of rac.-6-acetyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile, 1.0 g (15.2 mmoles) of 85% KOH, 1 ml of water and 8 ml of ethylene glycol was stirred and refluxed for 16 hr. The reaction mixture was cooled to room temperature, then poured into water. The pH of the solution was adjusted to 8 with 1 N aqueous HCl. The resulting mixture was extracted with two portions of ether (the ether extracts were discarded). The aqueous phase was acidified with 3 N aqueous HCl and worked-up with ether in the usual manner giving 756 mg (82%) of rac.-(6-hydroxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)acetic acid as a tan solid.

reactant | rac.-6-acetyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile | 3.48 mmoles, 1.0 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(CC#N)C)C1C)C)C | C17H21NO3
reactant | KOH | 15.2 mmoles, 1.0 g | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
reactant | water | O | H2O
reactant | water | 1 ml | O | H2O
solvent | ethylene glycol | 8 ml | C(CO)O | C2H6O2
product | rac.-(6-hydroxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)acetic acid | 756 mg, 82% | OC=1C(=C(C2=C(CCC(O2)(C)CC(=O)O)C1C)C)C | C15H20O4
